US08604061B2
a) ((R)-1-Iodomethyl-propyl)-benzene
To a solution of triphenylphosphine (15.4 g, 59 mmol) and imidazole (3.99 g, 59 mmol) in dichloromethane (150 ml) at room temperature was added portionwise iodine (14.9 g, 50 mmol) at such a rate that the temperature of the reaction mixture did not rise above 30° C. To the mixture was then added a solution of (R)-2-phenyl-butan-1-ol (7.34 g, 41 mmol, CAS 16460-75-6) in dichloromethane (50 ml) and the mixture was then stirred at room temperature overnight. The mixture was then concentrated in vacuo and the residue was resuspended in ether and the resulting crystals collected by filtration. The filtrate was concentrated in vacuo and the residue was triturated in heptane. The resulting crystals were removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (SiO2, heptane/EtOAc) to yield a colourless oil, (6.38 g, 60%).

reactant | triphenylphosphine | 59 mmol, 15.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 59 mmol, 3.99 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 50 mmol, 14.9 g | II | I2
reactant | (R)-2-phenyl-butan-1-ol | 41 mmol, 7.34 g | C1(=CC=CC=C1)[C@H](CO)CC | C10H14O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ((R)-1-Iodomethyl-propyl)-benzene | IC[C@H](CC)C1=CC=CC=C1 | C10H13I
